US06333358B1
To a solution of 647 mg of N-azidoacetyl-N-(2-methoxybenzyl)-2-phenoxyaniline in 7 ml of methanol was added 20 mg of platinum oxide, followed by stirring under a hydrogen atmosphere at room temperature overnight. The reaction mixture was filtered through Celite, and after concentration under reduced pressure, purified by silica gel column chromatography (eluent; ethyl acetate-hexane=1:6) and recrystallized from ethyl acetate-isopropyl ether to give 0.24 g of N-aminoacetyl-N-(2-methoxybenzyl)-2-phenoxyaniline.

reactant | N-azidoacetyl-N-(2-methoxybenzyl)-2-phenoxyaniline | 647 mg | N(=[N+]=[N-])CC(=O)N(C1=C(C=CC=C1)OC1=CC=CC=C1)CC1=C(C=CC=C1)OC | C22H20N4O3
solvent | methanol | 7 ml | CO | CH4O
catalyst | platinum oxide | 20 mg | [Pt]=O
product | N-aminoacetyl-N-(2-methoxybenzyl)-2-phenoxyaniline | 0.24 g | NCC(=O)N(C1=C(C=CC=C1)OC1=CC=CC=C1)CC1=C(C=CC=C1)OC | C22H22N2O3
